US06806265B2
c) Methyl 4′-hydroxy-3′-methyl-[1,1′-biphenyl]-3-carboxylate
A 1.0 M BBr3 solution in CH2Cl2 (3.4 mL, 3.40 mmol) was added to an ice-cold solution of methyl 4′-methoxy-3′-methyl-[1,1′-biphenyl]-3-carboxylate (345 mg, 1.35 mmol) in CH2Cl2 (13 mL). The reaction mixture was stirred at 25° C. for 2 h then was cooled to 0° C. MeOH (5 mL) was added and the mixture was stirred at 0° C. for 15 min then was extracted with CH2Cl2 (2×). The combined organic layers were washed with brine, dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (EtOAc:Hexane, 10 to 15%) to yield the title compound (278 mg, 85% yield) as a white solid.

reactant | BBr3 | 1.0 M | B(Br)(Br)Br | BBr3
reactant | methyl 4′-methoxy-3′-methyl-[1,1′-biphenyl]-3-carboxylate | 1.35 mmol, 345 mg | COC1=C(C=C(C=C1)C1=CC(=CC=C1)C(=O)OC)C | C16H16O3
reactant | MeOH | 5 mL | CO | CH4O
solvent | CH2Cl2 | 13 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3.40 mmol, 3.4 mL | C(Cl)Cl | CH2Cl2
product | Methyl 4′-hydroxy-3′-methyl-[1,1′-biphenyl]-3-carboxylate | 278 mg, 85% yield | OC1=C(C=C(C=C1)C1=CC(=CC=C1)C(=O)OC)C | C15H14O3
